US04233035
NN1 -di(5-octylsalicylidene) ethylene diamine was prepared by codissolving stoichiometric quantities of 5-octylsalicylaldehyde (prepared as described above) and ethylene diamine in hot absolute alcohol. After heating for 15 minutes the mixture was cooled to precipitate the Schiff's base (ketimine) in the form of yellow plates m p 157°-158° C.

reactant | 5-octylsalicylaldehyde | C(CCCCCCC)C1=CC=C(C(C=O)=C1)O | C15H22O2
reactant | ethylene diamine | C(CN)N | C2H8N2
product | di(5-octylsalicylidene) ethylene diamine | C(CCCCCCC)C1=CC=C(C(C=NCCN=CC=2C(O)=CC=C(C2)CCCCCCCC)=C1)O | C32H48N2O2
